US05041462
Preparation of 2-(acetoxyacetylamino)-6-methoxybenzamide:
To a solution of 2-amino-6-methoxybenzamide (1.7 g) in methylene chloride (20 ml) is added pyridine (1.6 ml), and thereto is added dropwise acetoxyacetyl chloride (1.1 ml) which is cooled in an ice bath. The mixture is stirred at room temperature for 2 hours, and thereafter, the solvent is distilled off under reduced pressure. The resulting crude crystals are washed with water and then are recrystallized from ethanol to give the title compound (2.1 g) having the following physical properties.

reactant | 2-amino-6-methoxybenzamide | 1.7 g | NC1=C(C(=O)N)C(=CC=C1)OC | C8H10N2O2
reactant | pyridine | 1.6 ml | N1=CC=CC=C1 | C5H5N
reactant | acetoxyacetyl chloride | 1.1 ml | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-(acetoxyacetylamino)-6-methoxybenzamide | 2.1 g | C(C)(=O)OCC(=O)NC1=C(C(=O)N)C(=CC=C1)OC | C12H14N2O5
